US04678789
1-[3-(2-Acetamido-1,3,4-thiadiazol-5-ylthio)-2-(2,4-dichlorophenyl)-2-hydroxy-propyl]-1,2,4-triazole
1-[3-(2-Amino-1,3,4-thiadiazol-5-ylthio)-2-(2,4-dichlorophenyl)-2-hydroxy-propyl]-1,2,4-triazole (0.5 g, 0.00124 m) was stirred at room temperature with a mixture of acetic anhydride (0.5 ml) and pyridine (5 ml) for one hour. The resulting solid was collected by filtration, washed with water and dried to give the title compound, 0.44 g (80%); m.p. 132° C.

reactant | 1-[3-(2-Amino-1,3,4-thiadiazol-5-ylthio)-2-(2,4-dichlorophenyl)-2-hydroxy-propyl]-1,2,4-triazole | 0.5 g | NC=1SC(=NN1)SCC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C13H12Cl2N6OS2
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-[3-(2-Acetamido-1,3,4-thiadiazol-5-ylthio)-2-(2,4-dichlorophenyl)-2-hydroxy-propyl]-1,2,4-triazole | C(C)(=O)NC=1SC(=NN1)SCC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C15H14Cl2N6O2S2
